US09062032B2
To a mixture of 3.27 g of [2-(3-bromophenyl)ethoxy](tert-butyl)diphenylsilane and 50 mL of THF was slowly added 5.5 mL of butyllithium (1.62 M hexane solution) at −78° C., followed by stirring for 30 minutes at −78° C. In addition, carbon dioxide was blown into the reaction mixture at −78° C., and the temperature thereof was slowly increased to room temperature, followed by stirring for 1 hour at room temperature. Water was added to the reaction mixture, and the mixture was neutralized with 9.0 ml of 1.0 M hydrochloric acid. Ethyl acetate was added thereto to separate the organic layer, the organic layer was washed with saturated brine and dried over anhydrous sodium sulfate, and then the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:6), thereby obtaining 1.45 g of 3-(2-{[tert-butyl(diphenyl)silyl]oxy}ethyl)benzoic acid.

reactant | [2-(3-bromophenyl)ethoxy](tert-butyl)diphenylsilane | 3.27 g | BrC=1C=C(C=CC1)CCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C24H27BrOSi
reactant | butyllithium | 1.62 M, 5.5 mL | C(CCC)[Li]
reactant | carbon dioxide | C(=O)=O | CO2
reactant | hydrochloric acid | 1.0 M, 9.0 ml | Cl | ClH
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-(2-{[tert-butyl(diphenyl)silyl]oxy}ethyl)benzoic acid | 1.45 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC=1C=C(C(=O)O)C=CC1 | C25H28O3Si
